US07297816B2
(S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoylamino]-3-(3-bromo-4-fluoro-phenyl)-propionic acid
The title compound was prepared from 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride and 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoic acid as in Example 1, Part C, followed by hydrolysis of the resulting methyl ester as in EXAMPLE 2, Part E. HPLC: RT=10.10 min. MS (ESI−): mass calcd. for C22H14BrCl2FN4O5S2, 648.31; m/z found, 645/647/649 [M−H]−. 1H NMR (400 MHz, acetone-d6): 11.58 (s, 1H), 8.47-8.42 (m, 1H), 8.34-8.20 (m, 2H), 7.92-7.85 (m, 1H), 7.85-7.80 (m, 1H), 7.75-7.70 (m, 1H), 7.67-7.60 (m, 1H), 7.42-7.35 (m, 1H), 7.25-7.18 (m, 1H), 4.96-4.87 (m, 1H), 3.40-3.32 (m, 1H), 3.20-3.10 (m, 1H).

reactant | 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)F)Br)=O
reactant | 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=C(C(=C2)Cl)Cl | C13H7Cl2N3O4S2
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoylamino]-3-(3-bromo-4-fluoro-phenyl)-propionic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)F)Br)C=C(C(=C2)Cl)Cl | C22H14BrCl2FN4O5S2
